US08426411B2
A mixture of 3-(6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)-4-(trifluoromethyl)piperidin-1-yl)-3-oxopropanenitrile (0.067 g, 0.18 mmol, prepared using O from 4-(trifluoromethyl)nicotinic acid, N, H with Example #5, Step C, HATU and DIEA, Q with Lawesson's reagent and mercury (II) trifluoroacetate, D with NaOH, F, H with 2-cyanoacetic acid, HATU, and DIEA) was dissolved in DMSO:MeOH (2:1, 3 mL). The mixture was separated using Varian 218 LC pumps, a Varian CVM 500 with switching valves and heaters for automatic solvent, column and temperature control and a Varian 701 Fraction collector using Method 4 (Table 2) to give 3-((3R,4R)-3-(6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)-4-(trifluoromethyl)piperidin-1-yl)-3-oxopropanenitrile (Rt=12.2 min, or =positive) (0.0284 g, 15%) [AA.1.1] and 3-((3S,4S)-3-(6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)-4-(trifluoromethyl)piperidin-1-yl)-3-oxopropanenitrde (Rt=5.3 min, or =negative) (0.0282 g, 15%) [AA.1.2]: LC/MS (Table 1, Method b) Rt=1.55 min; MS m/z: 377 (M+H)+.

reactant | 3-oxopropanenitrile | O=CCC#N | C3H3NO
reactant | 4-(trifluoromethyl)nicotinic acid | FC(C1=CC=NC=C1C(=O)O)(F)F | C7H4F3NO2
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
reactant | Lawesson's reagent | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | NaOH | [OH-].[Na+]
reactant | 2-cyanoacetic acid | C(#N)CC(=O)O | C3H3NO2
solvent | DMSO MeOH | 3 mL | CS(=O)C.CO
catalyst | mercury (II) trifluoroacetate | FC(C(=O)[O-])(F)F.[Hg+2].FC(C(=O)[O-])(F)F
product | 3-((3R,4R)-3-(6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)-4-(trifluoromethyl)piperidin-1-yl)-3-oxopropanenitrile | 0.0284 g, 15% | C1(=NC=C2N1C1=C(N=C2)NC=C1)[C@H]1CN(CC[C@H]1C(F)(F)F)C(CC#N)=O | C17H15F3N6O
